US04229455
Step A: Preparation of 5-bromobenzo[5,6]cyclohepta[1,2-c]pyridin-11-one
Bromine (4.18 ml.) in acetic acid (50 ml.) is added dropwise to a stirred solution of benzo[5,6]cyclohepta[1,2-c]pyridin-11-one (12.35 g.) in acetic acid (250 ml.). The resulting mixture is heated on the steam bath for 24 hours and the acetic acid is removed under reduced pressure. Saturated Na2CO3 solution (500 ml.) is added to the residue and the deep yellow solid that forms is collected, washed with water, and dried. This crude product is recrystallized from 1-chlorobutane to give 9.3 g., m.p. 167°-169° C.

reactant | Bromine | 4.18 ml | BrBr | Br2
reactant | benzo[5,6]cyclohepta[1,2-c]pyridin-11-one | 12.35 g | C1=NC=CC2=C1C(C1=C(C=C2)C=CC=C1)=O | C14H9NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 5-bromobenzo[5,6]cyclohepta[1,2-c]pyridin-11-one | BrC1=CC2=C(C(C=3C=NC=CC31)=O)C=CC=C2 | C14H8BrNO
